US08557805B2
Ethyl(2E)-2-[(2-ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}phenyl)hydrazono]propanoate
A mixture of 2-ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}aniline (11.3 g), concentrated hydrochloric acid (6.8 mL), ethanol (150 mL), and water (15 mL) was cooled to −5 to −10° C., and aqueous solution (15 mL) of sodium nitrite (3.0 g) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at the same temperature for 40 min. The reaction solution was added dropwise to a solution of ethyl 2-methylacetoacetate (6.1 mL) and potassium hydroxide (8.0 g) in water (100 mL) and ethanol (60 mL) at −5 to −10° C. After stirring at −10° C. for 30 min, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=25:75 to 40:60, volume ratio) to give the title compound (10.4 g, yield 66%) as a dark-red oil.

reactant | 2-ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}aniline | 11.3 g | C(C)C1=C(N)C=CC(=C1)OC=1C=NC(=CC1)S(=O)(=O)C | C14H16N2O3S
reactant | hydrochloric acid | 6.8 mL | Cl | ClH
reactant | sodium nitrite | 15 mL, 3.0 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 6.1 mL | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
solvent | water | 100 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl(2E)-2-[(2-ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}phenyl)hydrazono]propanoate | 10.4 g, yield 66% | C(C)C1=C(C=CC(=C1)OC=1C=NC(=CC1)S(=O)(=O)C)N\N=C(\C(=O)OCC)/C | C19H23N3O5S
